US04873262
2-Dipropylamino-8-(3,3-diethylureido)methyl-1,2,3,4-tetrahydronaphthalene
1.6 g (6 mmol) of 2-dipropylamino-8-aminomethyl-1,2,3,4-tetrahydronaphthalene were dissolved in 16 ml of dichloromethane under nitrogen. 0.81 g (6 mmol) of diethylcarbamoyl chloride was then added dropwise at a maximum of +25° C. The batch was then stirred for 26 h at room temperature. The batch was then stirred into 160 ml of ice water. The mixture was adjusted to pH 9 using 1N sodium hydroxide solution and extracted with dichloromethane. The organic phase was washed with water and dried over sodium sulphate. The solvent was subsequently removed by distillation. The residue was purified by column chromatography. Diisopropyl ether/isopropanol/triethylamine, 80:19.5:0.5, was used as eluent. The final product could be crystallized from petroleum ether 30-50 and was dried at +40° C. in vacuo.

reactant | 2-dipropylamino-8-aminomethyl-1,2,3,4-tetrahydronaphthalene | 6 mmol, 1.6 g | C(CC)N(C1CC2=C(C=CC=C2CC1)CN)CCC | C17H28N2
reactant | diethylcarbamoyl chloride | 6 mmol, 0.81 g | C(C)N(C(=O)Cl)CC | C5H10ClNO
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | dichloromethane | 16 ml | ClCCl | CH2Cl2
product | 2-Dipropylamino-8-(3,3-diethylureido)methyl-1,2,3,4-tetrahydronaphthalene | C(CC)N(C1CC2=C(C=CC=C2CC1)CNC(=O)N(CC)CC)CCC | C22H37N3O
